US06426360B1
Step 1 Preparation of Cycloheptanecarboxaldehyde
Cycloheptanemethanol (20 mmol, 2.56 g) was combined with methylene chloride (40 ml), Celite® (2.56 g), and MgSO4 (0.5 g). Pyridinium chlorochromate (30 mmol, 6.47 g) was added. After 2.5 hours, the mixture was filtered through silica and concentrated, affording the title compound as an oil (2.33 g, 91%).

reactant | Cycloheptanemethanol | 20 mmol, 2.56 g | C1(CCCCCC1)CO | C8H16O
reactant | MgSO4 | 0.5 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | Pyridinium chlorochromate | 30 mmol, 6.47 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Cycloheptanecarboxaldehyde | 2.33 g, 91% | C1(CCCCCC1)C=O | C8H14O
